US06153744
12.16 g thionyl chloride (7.5 ml, 102 mmol) in 10 ml toluene (abs.) are added quickly in a drop-wise manner to 6.2 g 2-(2-nitrophenyl)propanol (34 mmol) in 90 ml abs. toluene and 2 ml pyridine. The reaction solution is heated 1 h under reflux. After cooling, this is poured onto 100 g ice and mixed with 80 ml CH2Cl2. The H2O phase is extracted 2× each with 80 ml CH2Cl2. The combined organic phases are neutralized with 120 ml saturated bicarbonate solution, dried over Na2SO4 and rotary evaporated. 6.62 g (33 mmol, 98%) 2-(2-nitrophenyl)propyl chloride are obtained as a brown oil.

reactant | thionyl chloride | 102 mmol, 7.5 ml, 12.16 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-nitrophenyl)propanol | 34 mmol, 6.2 g | [N+](=O)([O-])C1=C(C=CC=C1)C(CO)C | C9H11NO3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-nitrophenyl)propyl chloride | 33 mmol, 6.62 g, 98% | [N+](=O)([O-])C1=C(C=CC=C1)C(CCl)C | C9H10ClNO2
